US09145441B2
Compound 104c. (R)-3-{(E)-(R)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-4-[7-((R)-1-hydroxy-ethyl)-naphthalen-2-yl]-2-methyl-but-3-enoyl}-4-isopropyl-oxazolidin-2-one
A solution of (R)-1-(7-bromo-naphthalen-2-yl)-ethanol (121.5 mg, 0.484 mmol), (R)-3-[(R)-2-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-but-3-enoyl]-4-isopropyl-oxazolidin-2-one (172.0 mg, 0.484 mmol), palladium(II)acetate (22 mg, 0.097 mmol), tri(o-tolyl)phosphine (29.5 mg, 0.097 mmol) and N,N-dicylohexylmethylamine (0.26 mL, 1.210 mmol) in anhydrous 1,4-dioxane (10 mL) was heated at reflux for 1.5 h. The mixture was treated with palladium(II) acetate (22 mg, 0.097 mmol) and tri(o-tolyl)phosphine (29.5 mg, 0.097 mmol). After stirring at reflux for 24 h and cooling to warm temperature the reaction was quenched with hydrochloric acid (1 M, 20 mL). The aqueous layer was extracted with ethyl acetate. The combined organics were washed with a saturated solution of sodium bicarbonate dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (116.7 mg, 46%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 0.07 (s, 6H), 0.91 (s, 9H), 1.15-1.30 (m, 6H), 1.55-1.65 (m, 6H), 2.29-2.46 (m, 1H), 3.83 (d, J=9.6 Hz, 1H), 4.10-4.33 (m, 2H), 4.50-4.60 (m, 2H), 5.00-5.15 (m, 1H), 6.47 (d, J=16.5 Hz, 1H), 6.70 (d, J=16.5 Hz, 1H), 7.11-7.22 (m, 2H), 7.40-7.50 (m, 2H), 7.72-7.82 (m, 2H). LCMS (m/z) 526.3 [M+H], Tr=4.03 min.

reactant | (R)-1-(7-bromo-naphthalen-2-yl)-ethanol | 0.484 mmol, 121.5 mg | BrC1=CC=C2C=CC(=CC2=C1)[C@@H](C)O | C12H11BrO
reactant | (R)-3-[(R)-2-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-but-3-enoyl]-4-isopropyl-oxazolidin-2-one | 0.484 mmol, 172.0 mg | C(C)(C)(C)[SiH2]OC([C@](C(=O)N1C(OC[C@H]1C(C)C)=O)(C=C)C)(C)C | C18H33NO4Si
reactant | tri(o-tolyl)phosphine | 0.097 mmol, 29.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-dicylohexylmethylamine | 1.210 mmol, 0.26 mL | C1(CCCCC1)CNCC1CCCCC1 | C14H27N
reactant | tri(o-tolyl)phosphine | 0.097 mmol, 29.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II)acetate | 0.097 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.097 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-3-{(E)-(R)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-4-[7-((R)-1-hydroxy-ethyl)-naphthalen-2-yl]-2-methyl-but-3-enoyl}-4-isopropyl-oxazolidin-2-one | 116.7 mg, 46% | C(C)(C)(C)[SiH2]OC([C@](C(=O)N1C(OC[C@H]1C(C)C)=O)(\C=C\C1=CC2=CC(=CC=C2C=C1)[C@@H](C)O)C)(C)C | C30H43NO5Si
